US07384934B2
(S)-2-Fluoro-1-[2-(2-methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-piperazin-1-yl]-ethanone
Add a solution of fluoroacetyl chloride (0.133 g, 1.38 mmol) in anhydrous dichloromethane (1-2 mL) dropwise to a 0° C. solution of (S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene (0.283 g, 0.688 mmol) and diisopropylethylamine (0.240 mL, 1.38 mmol) in anhydrous dichloromethane, and stir at 0° C. for 3 hours. Concentrate the reaction under reduced pressure to afford an oil. Purify the oil by flash chromatography, eluting with a gradient of a solution of 2% 2M ammonia in methanol, in dichloromethane (0-100% in dichloromethane over 30 minutes, then 100% for 28 minutes) to give the title compound: 0.18 g (56%). Mass spectrum (APCI+, m/e): 472 (M+1).

reactant | fluoroacetyl chloride | 1.38 mmol, 0.133 g | FCC(=O)Cl | C2H2ClFO
reactant | (S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.688 mmol, 0.283 g | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C18H20F3N5OS
reactant | diisopropylethylamine | 1.38 mmol, 0.240 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 1-2 mL | ClCCl | CH2Cl2
product | (S)-2-Fluoro-1-[2-(2-methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-piperazin-1-yl]-ethanone | FCC(=O)N1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2)CCOC | C20H21F4N5O2S
